* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 6.80k
R2 N002 N003 33.00k
R3 N002 0 820.00
R4 N003 N004 1.50k
R5 N005 N004 3.30
R6 0 N004 15.00
R7 N003 N005 82.00
V1 0 N001 30

.end