* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 560.00
R2 N002 N003 680.00
R3 N002 0 47.00
R4 N003 N004 56.00
R5 N005 N004 150.00k
R6 0 N004 330.00
R7 N003 N005 120.00k
V1 0 N001 30

.end