* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 330.00k
R2 N002 N003 390.00
R3 N002 0 82.00k
R4 N003 N004 390.00
R5 N005 N004 12.00
R6 0 N004 27.00
R7 N003 N005 270.00k
V1 0 N001 30

.end