* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 220.00k
R2 N002 N003 1.50k
R3 N002 0 15.00k
R4 N003 N004 3.30
R5 N005 N004 82.00
R6 0 N004 2.70k
R7 N003 N005 560.00
V1 N001 0 30

.end