* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 220.00k
R2 N002 N003 82.00k
R3 N002 0 560.00
R4 N003 N004 39.00k
R5 N005 N004 68.00k
R6 0 N004 150.00k
R7 N003 N005 270.00k
V1 N001 0 30

.end